US06706732B1
A solution of 5-(2-chloro-5-fluorophenyl)cyclohexane-1,3-dione (0.17 g) and ammonium acetate (0.16 g) in ethanol (10 ml) was heated under reflux for 12 hours. The solvent was distilled off under reduced pressure, and the residue was combined with ethyl acetate and then the organic layer was washed successively with aqueous sodium carbonate, water and saturated brine and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was dissolved in ethanol (3.5 ml) and toluene (6 ml), combined with 3-oxobutylaldehyde dimethyl acetal (0.21 g) and potassium hydroxide powder (34 mg) and then heated under reflux. The mixture was combined with potassium hydroxide powder (7 mg) after 30 minutes and with potassium hydroxide powder (7 mg) and 3-oxobutylaldehyde dimethyl acetal (17 mg) after 1 hour and further with potassium hydroxide powder (7 mg) after 1 hour and 30 minutes, and then stirred at the same temperature for 2 hours. After cooling, the solvent was distilled off under reduced pressure, and then the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, and dried over magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and the residue was subjected to a column chromatography on a silica gel (ethyl acetate-hexane) to obtain 7-(2-chloro-5-fluorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one.

reactant | 5-(2-chloro-5-fluorophenyl)cyclohexane-1,3-dione | 0.17 g | ClC1=C(C=C(C=C1)F)C1CC(CC(C1)=O)=O | C12H10ClFO2
reactant | ammonium acetate | 0.16 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 7-(2-chloro-5-fluorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | ClC1=C(C=C(C=C1)F)C1CC(C=2C(=CC=NC2C1)C)=O | C16H13ClFNO
